US06596772B1
4-{[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-methyl}-benzoic acid (87).
Same procedure as Example 82 except (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid and methyl-4-(aminomethyl)benzoate hydrochloride was used. 1H-NMR (400 MHz, DMSO-d6) δ 12. 84 (s, 1H, COOH), 11.45 (s, 1H, SNH), 8.75 (t, J=6.4 Hz, 1H, NHCO), 7.89 (d, J=8.6 Hz, 2H, ArH), 7.3 (m, 4H, ArH, H-7, & H-4), 6.93 9dd, J=2, 8.5 Hz, 1H, H-6), 6.27 (s, 1H, H-3), 4.86 (s, 2H, CH2N-2), 4.37 (d, J=6.6 Hz, 2H, NCH2Ar), 2.35 (s, 3H, CH3), MS m/z 468 (M−H).

reactant | (2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)O | C12H11F3N2O4S
reactant | methyl-4-(aminomethyl)benzoate hydrochloride | Cl.COC(C1=CC=C(C=C1)CN)=O
product | 4-{[2-(2-Methyl-5-trifluoromethanesulfonylamino-indol-1-yl)-acetylamino]-methyl}-benzoic acid | CC=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)CC(=O)NCC1=CC=C(C(=O)O)C=C1 | C20H18F3N3O5S
